US09034866B2
Synthesis of 10-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-((4-methylpiperazin-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-3-((4-methylpiperazin-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (prepared similarly as described in the synthesis of 10-bromo-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide replacing pyrrolidine with N-methylpiperazine) was reacted with 2-methylbut-3-yn-2-ol to give the titled compound as a colorless solid (12 mg, 23%).

reactant | 10-bromo-3-((4-methylpiperazin-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCN(CC3)C)C1 | C18H22BrN5O2
reactant | 10-bromo-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCCC3)C1 | C17H19BrN4O2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 2-methylbut-3-yn-2-ol | CC(C)(C#C)O | C5H8O
product | 10-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-((4-methylpiperazin-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 12 mg, 23% | OC(C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCN(CC3)C)C1)(C)C | C23H29N5O3
